US05824690
Synthesis of 1-[2-[3-(4-chloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare by the method of Example 88.6 using 2-[1-(3,4,5-trimethoxy-benzoyl)-3-(4-chloro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride to give the title compound: Rf =0.36 (silica gel, 6% methanol/dichloromethane).

reactant | 2-[1-(3,4,5-trimethoxy-benzoyl)-3-(4-chloro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=C(C=C2)Cl)CCCS(=O)(=O)[O-])C=C(C1OC)OC
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[2-[3-(4-chloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C34H40ClN3O5
